US07291293B2
Synthesis of 5-{4-[2-(4,6-Diamino-[1,3,5]triazin-2-yl)-vinyl]-benzylidene}-pyrimidine-2,4,6-trione (DTPT).
To 7.29 g (30 mmol) of 4-[2-(4,6-diamino-[1,3,5]triazin-2-yl)-vinyl]-benzaldehyde suspended in 150 mL of 1-pentanol at 130° C. was cautiously added 75 mL of hot aqueous sulfuric acid (25 mL of concentrated sulfuric acid was added to 50 mL of water with cautious while stirring). The solid dissolved immediately, and a yellow solution was obtained. To this solution, 4.61 g (36 mmol) of powdered barbituric acid was added while stirring vigorously at 140° C. Yellow precipitate appeared immediately. The mixture was slightly refluxed at 140° C. for 10 min then filtrated while it was hot. Solid washed with 50 mL of warm 1-pentanol, then suspended in 300 mL of water and neutralized with saturated aqueous NaHCO3. The solid was collected by filtration and washed with water. Yield: 9.72 g of yellow product. Yield=88%. 1HNMR (400 MHz, DMSO): δ11.519 (s, 1H), 11.375 (s, 1H), 8.378 (s, 1H), 8.234 (d, J=8.0 Hz, 2H), 7.915 (d, J=16.0 Hz, 1H), 7.857 (d, J=8.0 Hz, 2H), 7.101 (br, 4H), 7.047 (d, J=16.0 Hz, 1H). m.p.>350° C. EA found: C, 52.20; H, 3.86; N, 26.12. Calculated for C16H13N7O3.H2O: C, 52.03; H, 4.09; N, 26.55. MS (rel. abundance): M++1 (68), M++2 (13), 242.1 (5), 217.1 (6), 179.0 (15), 157.0 (30), 101.0 (55), 79.1 (100). MS (high resolution, ES+): MH+(352.1158).

reactant | 4-[2-(4,6-diamino-[1,3,5]triazin-2-yl)-vinyl]-benzaldehyde | 30 mmol, 7.29 g | NC1=NC(=NC(=N1)N)C=CC1=CC=C(C=O)C=C1 | C12H11N5O
reactant | sulfuric acid | 75 mL | S(O)(O)(=O)=O | H2O4S
reactant | barbituric acid | 36 mmol, 4.61 g | N1C(=O)NC(=O)CC1=O | C4H4N2O3
solvent | 1-pentanol | 150 mL | C(CCCC)O | C5H12O
product | 5-{4-[2-(4,6-Diamino-[1,3,5]triazin-2-yl)-vinyl]-benzylidene}-pyrimidine-2,4,6-trione | Yield=88% | NC1=NC(=NC(=N1)N)C=CC1=CC=C(C=C2C(NC(NC2=O)=O)=O)C=C1 | C16H13N7O3
